US08629160B2
2-Chloro-1-(thiophen-2-yl)ethanone (36.8 mg, 0.23 mmol) was added to a solution of (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-7-yl)-2-(phenylamino)acetate (C27) (90 mg, 0.23 mmol) in acetonitrile (3 ml). The reaction was stirred at r.t. overnight. The solvent was removed under vacuum, and the crude product was triturated with Et2O. The compound was first purified by preparative HPLC (Eluent: CH3CN/H2O) and then by flash chromatography (DCM/MeOH=95/5) to obtain (3R)-3-(2-(benzo[b]thiophen-7-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride (20 mg, 16% yield).

reactant | 2-Chloro-1-(thiophen-2-yl)ethanone | 0.23 mmol, 36.8 mg | ClCC(=O)C=1SC=CC1 | C6H5ClOS
reactant | (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-7-yl)-2-(phenylamino)acetate | 0.23 mmol, 90 mg | S1C2=C(C=C1)C=CC=C2C(C(=O)O[C@H]2CN1CCC2CC1)NC1=CC=CC=C1 | C23H24N2O2S
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | (3R)-3-(2-(benzo[b]thiophen-7-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride | 20 mg, 16% yield | [Cl-].S1C2=C(C=C1)C=CC=C2C(C(=O)O[C@H]2C[N+]1(CCC2CC1)CC(C=1SC=CC1)=O)NC1=CC=CC=C1 | InChI=1S/C29H29N2O3S2.ClH/c32-24(26-10-5-16-35-26)18-31-14-11-20(12-15-31)25(19-31)34-29(33)27(30-22-7-2-1-3-8-22)23-9-4-6-21-13-17-36-28(21)23;/h1-10,13,16-17,20,25,27,30H,11-12,14-15,18-19H2;1H/q+1;/p-1/t20?,25-,27?,31?;/m0./s1
